US07157487B2
In THF (6.0 ml) was dissolved methyl 3-chloro-4-((1-ethyl-3-indolylcarbonyl)amino)phenylacetate. To the resulting solution was added 0.25N NaOH (6.0 ml) at room temperature. After stirring at 50° C. for 18 hours, the reaction mixture was cooled to room temperature and distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl (2.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and then, dried under reduced pressure to give 3-chloro-4-((1-ethyl-3-indolylcarbonyl)amino)phenylacetic acid (250.7 mg, 94%) as a brown amorphous substance.

reactant | NaOH | 0.25N, 6.0 ml | [OH-].[Na+]
reactant | methyl 3-chloro-4-((1-ethyl-3-indolylcarbonyl)amino)phenylacetate | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)CC)CC(=O)OC | C20H19ClN2O3
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
product | 3-chloro-4-((1-ethyl-3-indolylcarbonyl)amino)phenylacetic acid | 250.7 mg, 94% | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)CC)CC(=O)O | C19H17ClN2O3
